US07713994B2
A solution of 1-thiophen-3-yl-2-oxo-1,2-dihydro-pyridine-4-carbaldehyde (0.27 g, 1.3 mmol) in methanol (20 mL) is cooled to 0° C. in an ice-water bath and then treated with sodium borohydride (50 mg, 1.3 mmol). After stirring at 0° C. for two hours, the reaction mixture is quenched by the addition of 10% aqueous hydrochloric acid. The mixture is extracted with ethyl acetate. The combined organic extracts were washed once with saturated aqueous sodium chloride solution, dried, and concentrated under reduced pressure to provide 4-hydroxymethyl-1-thiophen-3-yl-1H-pyridin-2-one (0.18 g, 67%), which is used in the following step without further purification.

reactant | 1-thiophen-3-yl-2-oxo-1,2-dihydro-pyridine-4-carbaldehyde | 1.3 mmol, 0.27 g | S1C=C(C=C1)N1C(C=C(C=C1)C=O)=O | C10H7NO2S
reactant | sodium borohydride | 1.3 mmol, 50 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-hydroxymethyl-1-thiophen-3-yl-1H-pyridin-2-one | 0.18 g, 67% | OCC1=CC(N(C=C1)C1=CSC=C1)=O | C10H9NO2S
